US07342039B2
To a solution of 2-bromo-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxymethyl)-benzoic acid methyl ester (0.40 g, 1.02 mmol) in methylene chloride (15 mL) cooled to 0° C. was added methyl hydrazine (0.087 g, 1.88 mmol). After a few minutes the ice bath was removed and the mixture was allowed to stir at room temperature for 2 hours. The mixture was filtered and the filtrate was concentrated under reduced pressure. The crude material was purified by flash chromatography through silica gel using ethyl acetate/methylene chloride (0/100 gradient to 6/94) to give 4-aminooxymethyl-2-bromo-benzoic acid methyl ester (0.25 g, 94%) as a colorless oil. 1H NMR (400 MHz, CDCl3); δ 7.79 (d, 1H), 7.66 (s, 1H), 7.32 (d, 1H), 4.67 (s, 2H), 3.92 (s, 3H).

reactant | 2-bromo-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxymethyl)-benzoic acid methyl ester | 1.02 mmol, 0.40 g | COC(C1=C(C=C(C=C1)C(=O)ON1CC2=CC=CC=C2C1=O)Br)=O | C17H12BrNO5
reactant | methyl hydrazine | 1.88 mmol, 0.087 g | CNN | CH6N2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-aminooxymethyl-2-bromo-benzoic acid methyl ester | 0.25 g, 94% | COC(C1=C(C=C(C=C1)CON)Br)=O | C9H10BrNO3
